data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9009,"CC(=O)[O-:1].CC(C)N(CC1=CC=CC=C1)C(=O)C1C(C)(O)[C:2]2([H:3])CC3(O)C4CC5=C(C=CC=C5)C3(CCN4C)C[C:4]2=[NH+:5]1.O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,205,"O=S(=O)(O)[O:1][H:2].OCCCC1C[O:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2051,"C1=CCC2CCC(C1)[C:1]([O-:2])=[N:3]2.CC1=CC=C(S(=O)(=O)[O-])C=C1.[Cl-].[H:4][OH:5].[Na+]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3999,"CCCC1CC2=C(C(=O)[C:1]1=[CH:2][O-:3])C(O)=C(OC)C=C2.CC[NH+](CC)CC.C[C:4](=[O:5])[CH:6]=[CH2:7]|(3, 2);((2, 1), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,10170,"C[N-][CH:1]=[S+:2]C|((1, 2), 2)"
train,pmechdb_split_0,0,9306,"CC(=O)[O:1][Si-:2](C)(C)(C)N(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,4337,"CCN(CC)C(O)=CC[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7784,"CC=CC(CC(C)(C)O)[N:1](C)C(C)C1=CC=CC=C1.ClC1=CC([C:2](=[OH+:3])[O:4][O-:5])=CC=C1|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,741,"C[Si](C)(C)OC1=CCC([C:1](C)=[O:2])CC1.[Li:3][CH3:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8211,"C[N+:1](C)=[CH2:2].O=[C:3]([H:4])[O-:5]|(5, 3);((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4551,"BrC1=C(CC[CH:1]2[OH+:2]CCC[O:3]2)N=CN=C1.O.O=C[O-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3468,"CC1CCC2CC(=[O:1])C12.C[Si](C)(C)I.[I][Zn:2][I]|(1, 2)"
train,pmechdb_split_0,0,46,"COC1=CC2=C(C=C1)C(C[C:1](OC(C)C)=[O:2])[N:3]([C:4]1=[CH:5]CCC1)CC2.O.O=C(O)C(F)(F)F|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5779,"C[C:1](C)=[CH:2]C1=CC=CC=C1.O=S(=O)(O)[O:3][H:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1449,"CCCC[C+:1](OC)[OH:2].O|(2, 1)"
train,pmechdb_split_0,0,9554,"FC(F)(F)C1=C[CH+:1][C:2](Br)([H:3])O1.[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4820,"C[C:1]#[NH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6835,"COC1=CC2=C(C=C1)[C:1](CC1=CC(O)=C(OC)C=C1)([Cl:2])[NH:3]CC2.O=P([O-])(Cl)Cl|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,908,"C1=CC=[N:1]C=C1.COC(=O)C[C:2]([CH:3](C(=O)OC)[H:4])=[O:5].O.O=CCCl|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,9709,"C1CC[C:1](=[O:2])C(CC[C:3](=[CH2:4])[O-:5])C1|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5343,"CC[CH:1]([H:2])[C+:3](C)C=O.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,464,"CC(=O)O.O=C(O)C1CCCC[NH:1]1.O=[N+]([O-])CCC[CH:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7554,"O=S(=O)(O)C1=C[C:1](Br)([H:2])[CH+:3]O1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,8360,"CC(C)[O-].CCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(CC(C)C)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1828,"CC(=O)[O-].CCOC(=O)C(CC(=O)C1=CC=CC=C1)[C:1](C)([NH2:2])[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,651,"C1=CC=[NH+]C=C1.CCC(=O)C1(CC2CCCCC2)N=C(CC)O[C:1]1=[O:2].CCC(=O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8216,"CC(C)NC(C)C.CCCC=[O:1].CC[Si](CC)(CC)C(C)=C[N](C(C)(C)C)[Li:2]|(1, 2)"
train,pmechdb_split_0,0,7608,"C1=CC=C(C2CCCC(C3=CC=CC=C3)[C:1](C3=CC=CC=C3)=[CH:2]2)C=C1.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4956,"CC(C)[C:1](=[C:2](C)C)[O-:3].[Br:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4002,"CC(C)(C)[CH:1]1C[Br+:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6981,"COC1=C2OC3C45CCN(CC6CCC6)C(CC(=C24)C=C1)C5(O)CC[C:1]3([NH:2]N)[OH:3].O.OCCOCCO|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,863,"CCC(C(=O)C1=CC=CC=C1)C(=O)[O:1][H:2].CCOC(=O)NN(C(OCC)=[O:3])P(OCC1=CC2=C(C=CC=C2)C=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5698,"CC(C)[C:1]1([H:2])C=CC=C[C+:3]1Br.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2414,"CP(C)(=O)[CH2:1][H:2].[H:3][K:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2834,"CC[O-:1].OC12CCCCC1CC[C:2](=[O:3])[CH:4]2[H:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,5441,"CC(C)(C)C(CBr)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2899,"C1CS[CH:1]=[S+:2]C1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7217,"CCC1C=CC2OC([O-])([NH+:1](N)[H:2])C1C2CCCC#N.N[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4202,"C1CCNC1.CC12CC[C:1](=[N+:2]3CCCC3)C=C1CCCC2=O.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1437,"C1=CC2=CC=CC([C:1]3([OH2+:2])CCCC3)=C2C=C1.C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,638,"C[S-:1].C[S:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,559,"Br[C:1]#[N:2].CC(=O)OC1=C2OC3C(=O)CCC4(OC(C)=O)C5CC(=C2C34CC[N:3]5C)C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,540,"CC(C)[O-].CCCC1CC(CC(C)C)CC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2012,"CCOC(=O)[C:1]1([H:2])C=C(C)[N+:3](C)=[C:4]1C.C[NH2:5].O|(5, 2);((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7265,"C[Si-:1](C)(C)([O+]=C1CCC2=C(C=CC=C2)O1)[O:2]S(=O)(=O)C(F)(F)F.C[Si](C)(C)OCCO[Si](C)(C)C|((1, 2), 2)"
